US07141598B2
Production of 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one
3-Hydroxy-1-(1-trityl-1H-imidazol-4-yl)-1-propanone (129 g) was dissolved in ethyl acetate (2 L). While stirring under ice-cooling (ice-salt), triethylamine (65.8 ml) was added and then a solution of methanesulfonyl chloride (34.2 ml) in ethyl acetate (50 ml) was added. The mixture was stirred at the same temperature for 1 h and ice water (0.8 L) was added to the reaction mixture, which was followed by partitioning. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in acetonitrile (2.36 L) and the mixture was stirred at 70° C. for 3 h. The reaction mixture was allowed to assume room temperature. Methanol (0.8 L) and triethylamine (61 ml) were added and the mixture was stirred again at 70° C. for 1.5 h. The solvent was evaporated under reduced pressure and ethyl acetate (200 ml) was added to the resulting residue. The insoluble material was filtered off. The solvent was evaporated and the residue was purified by silica gel column chromatography (eluent; methanol/ethyl acetate; 1/24–1/9). The eluate was recrystallized from methanol/ethyl acetate to give the title compound (18.84 g) as pale brown crystals.

reactant | 3-Hydroxy-1-(1-trityl-1H-imidazol-4-yl)-1-propanone | 129 g | OCCC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | triethylamine | 65.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 34.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one | 18.84 g | C1=C2N(C=N1)CCC2=O | C6H6N2O
